US04515626
Production of 2-cyclopropyl-4,6-dimethoxy-1,3,5-triazine (intermediate)
8.1 g of sodium methylate are added to a solution of 71.2 g of 2-cyclopropyl-4,6-bis-(trichloromethyl)-1,3,5-triazine in 200 ml of methanol, and stirring is maintained for 5 hours at room temperature. The solution is then evaporated to dryness, and the residue is stirred up with 200 ml of ether. The resulting suspension is filtered and the filtrate is concentrated by evaporation. The residue crystallises, and is recrystallised from ether/hexane. The yield is 35.7 g of the above triazine, m.p. 68°-70° C.

reactant | sodium methylate | 8.1 g | C[O-].[Na+]
reactant | 2-cyclopropyl-4,6-bis-(trichloromethyl)-1,3,5-triazine | 71.2 g | C1(CC1)C1=NC(=NC(=N1)C(Cl)(Cl)Cl)C(Cl)(Cl)Cl | C8H5Cl6N3
reactant | methanol | 200 ml | CO | CH4O
product | 2-cyclopropyl-4,6-dimethoxy-1,3,5-triazine | C1(CC1)C1=NC(=NC(=N1)OC)OC | C8H11N3O2
